US07470680B2
N-(2-nitrophenethyl)-1-benzylpiperidin-4-amine.
1-(2-Bromoethyl)-2-nitrobenzene (1.5 g, 6.52 mmol) and 4-amino-1-benzylpiperidine (3.0 ml, 14.71 mmol) were combined. Mixture was heated neat at 100° C. and held with stirring for 17 hours. Mixture was cooled to room temperature. Residue was triturated in 30 mL diethyl ether. Solids were filtered off, washed with diethyl ether and discarded. Filtrate was concentrated. Silica gel chromatography on the residue eluting 2M ammonia in methanol-dichloromethane afforded the title compound as brown oil in 81% yield. MS (M+H)+=340.4.

reactant | 1-(2-Bromoethyl)-2-nitrobenzene | 6.52 mmol, 1.5 g | BrCCC1=C(C=CC=C1)[N+](=O)[O-] | C8H8BrNO2
reactant | 4-amino-1-benzylpiperidine | 14.71 mmol, 3.0 ml | NC1CCN(CC1)CC1=CC=CC=C1 | C12H18N2
product | N-(2-nitrophenethyl)-1-benzylpiperidin-4-amine | 81% yield | [N+](=O)([O-])C1=C(CCNC2CCN(CC2)CC2=CC=CC=C2)C=CC=C1 | C20H25N3O2
